US06417192B1
6-(4-Chlorobenzoylamino)hexan-1-ol (17.0 g) was refluxed in 48% hydrobromic acid (260 ml) for 2.5 h. The mixture was cooled and added to water (450 ml) and diethyl ether (450 ml). The organic layer was washed with saturated sodium bicarbonate (450 ml) and brine (450 ml) and was dried over magnesium sulfate. Evaporation followed by recrystallisation from diethyl ether gave 1-bromo-6-(4-chlorobenzoylamino)hexane (8.6 g). 1H-NMR (CDCl3) δ 1.3-2.0 (8H, m), 3.35-3.55 (4H, m), 6.15 (1H, bs), 7.40 (2H, m) and 7.70 (2H, m).

reactant | 6-(4-Chlorobenzoylamino)hexan-1-ol | 17.0 g | ClC1=CC=C(C(=O)NCCCCCCO)C=C1 | C13H18ClNO2
reactant | water | 450 ml | O | H2O
reactant | diethyl ether | 450 ml | C(C)OCC | C4H10O
reactant | hydrobromic acid | 260 ml | Br | BrH
product | 1-bromo-6-(4-chlorobenzoylamino)hexane | 8.6 g | BrCCCCCCNC(C1=CC=C(C=C1)Cl)=O | C13H17BrClNO
